US07531532B2
6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine
2-Fluoro-4-nitrophenol (1.736 g) was dissolved in dimethyl sulfoxide (10 ml), and then sodium hydride (400 mg) was added thereto, followed by stirring for 20 min. Then, 4-amino-6-chloropyrimidine (648 mg) was added thereto, followed by stirring at 100° C. for 45 min. The reaction mixture was heated up to 120° C., followed by stirring for 1 hr and 25 min. Then, the reaction mixture was heated up to 140° C., followed by stirring overnight. The reaction mixture was cooled down to room temperature, and then a 1 N aqueous solution of sodium hydroxide (10 ml) was added thereto, followed by stirring and extracting with ethyl acetate. The organic layer was washed with a 1 N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:2). The solvent was evaporated under a reduced pressure to give a residue, which was suspended in diethyl ether (7 ml)-hexane (3.5 ml). The solid was filtered off, and dried under aeration to provide the titled compound (201 mg, 16.0%) as pale brown powder.

reactant | 2-Fluoro-4-nitrophenol | 1.736 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | sodium hydride | 400 mg | [H-].[Na+]
reactant | 4-amino-6-chloropyrimidine | 648 mg | NC1=NC=NC(=C1)Cl | C4H4ClN3
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | diethyl ether | 7 ml | C(C)OCC | C4H10O
solvent | hexane | 3.5 ml | CCCCCC | C6H14
product | 6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-ylamine | 201 mg, 16.0% | FC1=C(OC2=CC(=NC=N2)N)C=CC(=C1)[N+](=O)[O-] | C10H7FN4O3
